US09079866B2
2-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-2-methylpropanenitrile
The title compound was prepared using conditions analogous to those used to make Example 6 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 2-((2-bromophenyl)sulfonyl)-2-methylpropanenitrile. MS (ESI): mass calcd. for C20H17FN4O2S, 396.11; m/z found, 397.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.62 (s, 2H), 8.19 (d, J=7.9, 1H), 7.94 (m, 1H), 7.84 (m, 1H), 7.59 (m, 1H), 7.52 (d, J=7.5, 1H), 7.40 (dd, J=11.8, 1.1, 1H), 7.31 (dd, J=7.9, 1.4, 1H), 1.51 (s, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 2-((2-bromophenyl)sulfonyl)-2-methylpropanenitrile | BrC1=C(C=CC=C1)S(=O)(=O)C(C#N)(C)C | C10H10BrNO2S
product | 2-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-2-methylpropanenitrile | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C(C#N)(C)C)F | C20H17FN4O2S
